US09359340B2
(R)-4-Benzyl-3-(2-(4-chlorophenyl)acetyl)oxazolidin-2-one (2.0 g, 6.06 mmol) was added to a flask in DCM (75 ml) followed by TiCl4 (1.38 g, 7.28 mmol) and DIEA (0.823 g, 6.37 mmol). The reaction was allowed to stir for about 15 to about 20 minutes at −78° C. at which point tert-butyl cyclopropylmethyl(methoxymethyl)carbamate (1.57 g, 7.28 mmol) was added. The reaction allowed to stir for 5 minutes, and the −78° C. bath was replaced with a 0° C. bath. The reaction was then allowed to stir for 3 hours at room temperature. After the reaction was determined to be complete by HPLC, the reaction was cooled to 0° C. and quenched by the slow addition of aqueous NaHCO3 while stirring for 10 minutes. The organic layer was separated, and the aqueous layer was re-extracted (3× EtOAc). The combined organics were dried with MgSO4, filtered and concentrated. The crude residue was purified by column chromatography, eluting 6:1 to 2:1 hexane/EtOAc to give tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(4-chlorophenyl)-3-oxopropyl(cyclopropylmethyl)carbamate (2.70 g, 87%) as light brown oil. (LCMS (APCI+) [M−Boc+H]+ 412.9; Rt: 4.42 min)

reactant | (R)-4-Benzyl-3-(2-(4-chlorophenyl)acetyl)oxazolidin-2-one | 6.06 mmol, 2.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC1=CC=C(C=C1)Cl)=O | C18H16ClNO3
reactant | DIEA | 6.37 mmol, 0.823 g | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl cyclopropylmethyl(methoxymethyl)carbamate | 7.28 mmol, 1.57 g | C1(CC1)CN(C(OC(C)(C)C)=O)COC | C11H21NO3
solvent | DCM | 75 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 7.28 mmol, 1.38 g | Cl[Ti](Cl)(Cl)Cl
product | tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(4-chlorophenyl)-3-oxopropyl(cyclopropylmethyl)carbamate | 2.70 g, 87% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](CN(C(OC(C)(C)C)=O)CC1CC1)C1=CC=C(C=C1)Cl)=O | C28H33ClN2O5
